US07932272B2
Quinoline-6-carboxylic acid 3-(4-nitro phenoxy)-benzylamide
To a mixture solution of quinoline-6-carboxylic acid 3-hydroxybenzylamide described in Preparation Example E+-4 (3.0 mg, 0.011 mmol), copper(II) acetate (2.9 mg, 0.016 mmol), molecular sieves 4A (50 mg) and dichloromethane (2 mL) were added triethylamine (0.0077 mL, 0.055 mmol) and 4-nitrophenylboronic acid (1.8 mg, 0.011 mmol), and the solution was stirred in the presence of air at room temperature for 10 days. The reaction solution was filtered, then, water, ethyl acetate and an aqueous solution of 29% ammonia were added for extraction, the solution was washed with brine, then, the solvent was evaporated in vacuo. The residue was purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and trifluoroacetic acid salt of the title compound (1.14 mg, 0.0022 mmol, 20%) was obtained.

reactant | quinoline-6-carboxylic acid 3-hydroxybenzylamide | OC=1C=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C17H14N2O2
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
reactant | triethylamine | 0.055 mmol, 0.0077 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenylboronic acid | 0.011 mmol, 1.8 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
solvent | acetonitrile water | C(C)#N.O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | copper(II) acetate | 0.016 mmol, 2.9 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Quinoline-6-carboxylic acid 3-(4-nitro phenoxy)-benzylamide | 0.0022 mmol, 1.14 mg, 20% | [N+](=O)([O-])C1=CC=C(OC=2C=C(CNC(=O)C=3C=C4C=CC=NC4=CC3)C=CC2)C=C1 | C23H17N3O4
